US08877779B2
1-(4-fluoro-1-indan-1-ylpiperidin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one hydrochloride
In the same manner as in Example 1 and using 4-fluoro-1-indanone, 1-(4-fluoro-1-indan-1-ylpiperidin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one was synthesized, which was then converted to hydrochloride with 4N hydrochloric acid-ethyl acetate solution to give the title compound as a brown solid.

reactant | 4-fluoro-1-indanone | FC1=C2CCC(C2=CC=C1)=O | C9H7FO
reactant | 1-(4-fluoro-1-indan-1-ylpiperidin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one | FC1(CCN(CC1)C1CCC2=CC=CC=C12)N1C(NC2=C1C=CC=C2)=O | C21H22FN3O
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
product | 1-(4-fluoro-1-indan-1-ylpiperidin-4-yl)-1,3-dihydro-2H-benzimidazol-2-one hydrochloride | Cl.FC1(CCN(CC1)C1CCC2=CC=CC=C12)N1C(NC2=C1C=CC=C2)=O | InChI=1S/C21H22FN3O.ClH/c22-21(25-19-8-4-3-7-17(19)23-20(25)26)11-13-24(14-12-21)18-10-9-15-5-1-2-6-16(15)18;/h1-8,18H,9-14H2,(H,23,26);1H
